US07442839B2
viii) (5R)-3-(6-{4-[3-(Cyclopentylthio)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
A stirred solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[4-(3-iodophenyl)butoxy]hexyl}-1,3-oxazolidin-2-one (1.8 g), 1,1 bis(diphenylphosphino) ferrocene (86 mg) and tris(dibenzylideneacetone) di palladium (180 mg) was stirred at room temperature in 1-methyl-2-pyrrolidinone (10 ml) and triethylamine (2 ml) for 10 min under nitrogen. Cyclopentyl mercaptan (0.63 ml) was added and the mixture was heated at 60° C. for 1 h. The mixture was cooled, poured into water and extracted into dichloromethane. The extracts were dried (Na2SO4) and evaporated. The residual oil was purified on a biotage cartridge (90 g) using ether-hexane (3:2) as eluent changing to ether. The appropriate fractions were evaporated to give the title compound (1.07 g).

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[4-(3-iodophenyl)butoxy]hexyl}-1,3-oxazolidin-2-one | 1.8 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC2=CC(=CC=C2)I)C | C29H38INO5
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | Cyclopentyl mercaptan | 0.63 ml | C1(CCCC1)S | C5H10S
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
catalyst | 1,1 bis(diphenylphosphino) ferrocene | 86 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | tris(dibenzylideneacetone) di palladium | 180 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | (5R)-3-(6-{4-[3-(Cyclopentylthio)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 1.07 g | C1(CCCC1)SC=1C=C(C=CC1)CCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C34H47NO5S
